US08633237B2
h) N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-1-yl)thiophene-2-sulfonamide
2-thiophenesulfonyl chloride (23 mg, 0.126 mmol) was added to a solution of (3-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol (40 mg, 0.124 mmol) and triethylamine (34 μL, 0.244 mmol) in DCM (2 mL). The reaction was stirred at rt for 24 h before aq. sat. NaHCO3 (2 mL) was added to the mixture and the whole was filtered over a phase separator. The organic filtrate was evaporated to dryness in a Genevac. The crude material was purified by prep. LCMS to afford the title compound (20.8 mg, 35.7%). MS (ESI): m/z [M−H]− 466.0.

reactant | 2-thiophenesulfonyl chloride | 0.126 mmol, 23 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | (3-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol | 0.124 mmol, 40 mg | NC1CCC2=CC(=CC=C12)CC=1C=C(C=C(C1)C(F)(F)F)CO | C18H18F3NO
reactant | triethylamine | 0.244 mmol, 34 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-1-yl)thiophene-2-sulfonamide | 20.8 mg, 35.7% | OCC=1C=C(CC=2C=C3CCC(C3=CC2)NS(=O)(=O)C=2SC=CC2)C=C(C1)C(F)(F)F | C22H20F3NO3S2
